US07638515B2
1.05 g (3.3 mmol) of ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclohexyl]-2-oxopropionate and 0.74 ml (5 mmol) of (trifluoromethyl)-trimethylsilane in 7 ml of THF are mixed with 62 mg of tetramethylammonium fluoride at −40° C. It is stirred for 2 hours at −25° C., and then another 0.35 ml (2.4 mmol) of (trifluoromethyl)-trimethylsilane and 62 mg of tetramethylammonium fluoride are added. After another 2 hours, 1 ml of 2N hydrochloric acid is added, and the reaction mixture is added to water. It is extracted several times with ethyl acetate, washed with saturated sodium chloride solution, dried with sodium sulfate, and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 10%-40%), 800 mg of ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)-propionate is obtained as a yellow oil. This oil is mixed in 40 ml of diethyl ether at 0° C. with 150 g (4 mmol) of lithium aluminum hydride, and it is stirred for 2.5 more hours at room temperature. 20 ml of saturated ammonium chloride solution is carefully added at 0° C. to the batch, and it is vigorously stirred for 15 more minutes. It is extracted several times with diethyl ether, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 10%-1 5%), 630 g of 3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-(trifluoromethyl)-propane-1,2-diol is obtained.

reactant | ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclohexyl]-2-oxopropionate | 3.3 mmol, 1.05 g | C(C)OC(C(CC1(CCCCC1)C1=C(C(=CC=C1)F)OC)=O)=O | C18H23FO4
reactant | (trifluoromethyl)-trimethylsilane | 5 mmol, 0.74 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetramethylammonium fluoride | 62 mg | [F-].C[N+](C)(C)C
reactant | (trifluoromethyl)-trimethylsilane | 2.4 mmol, 0.35 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetramethylammonium fluoride | 62 mg | [F-].C[N+](C)(C)C
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)-propionate | 800 mg | C(C)OC(C(CC1(CC1)C1=C(C(=CC=C1)F)OC)(C(F)(F)F)O)=O | C16H18F4O4
